US06589970B2
Step 2: (1-Bromo-6-{[methyl-(3-phenethyl-benzofuran-2-carbonyl)-amino]-methyl}-naphthalen-2-yloxy)-acetic acid.
A mixture of 1 N NaOH (4 mL, 4 mmol) and (1-bromo-6-{[methyl-(3-phenethyl-benzofuran-2-carbonyl)-amino]-methyl}-naphthalen-2-yloxy)-acetic acid methyl ester (1.19 g, 2.02 mmol), prepared in the previous step, in 100 mL of methanol plus 4 mL of water was stirred under nitrogen at room temperature overnight. 1 N HCl (4 mL, 4 mmol) was added and the reaction concentrated under reduced pressure to remove the methanol. The solid that formed was collected by filtration and dried under reduced pressure to give the title compound (1.11 g, 96%) as an off-white solid, mp 119-122° C.

reactant | NaOH | 4 mmol, 1 N, 4 mL | [OH-].[Na+]
reactant | (1-bromo-6-{[methyl-(3-phenethyl-benzofuran-2-carbonyl)-amino]-methyl}-naphthalen-2-yloxy)-acetic acid methyl ester | 2.02 mmol, 1.19 g | COC(COC1=C(C2=CC=C(C=C2C=C1)CN(C(=O)C=1OC2=C(C1CCC1=CC=CC=C1)C=CC=C2)C)Br)=O | C32H28BrNO5
reactant | water | 4 mL | O | H2O
reactant | HCl | 4 mmol, 1 N, 4 mL | Cl | ClH
solvent | methanol | 100 mL | CO | CH4O
product | (1-Bromo-6-{[methyl-(3-phenethyl-benzofuran-2-carbonyl)-amino]-methyl}-naphthalen-2-yloxy)-acetic acid | 1.11 g, 96% | BrC1=C(C=CC2=CC(=CC=C12)CN(C(=O)C=1OC2=C(C1CCC1=CC=CC=C1)C=CC=C2)C)OCC(=O)O | C31H26BrNO5
